US07049317B2
(±)-trans-N-{2-[2-(4-Chlorophenyl)ethylamino]cyclopentyl}-4-methanesulfonylbenzamide hydrochloride
Using procedures similar to those described in Example 3, except replacing the (±)-trans-[3-(4-chlorophenyl)propyl]-{2-[3-(3,4,5-trimethoxyphenyl)ureido]-cyclopentyl}carbamic acid tert-butyl ester used therein with (±)-trans-[2-(4-chlorophenyl)ethyl]-[2-(4-methanesulfonylbenzoylamino)cyclopentyl]carbamic acid tert-butyl ester, the title compound was prepared; MS m/z 421 (M+1)+.

reactant | (±)-trans-[3-(4-chlorophenyl)propyl]-{2-[3-(3,4,5-trimethoxyphenyl)ureido]-cyclopentyl}carbamic acid tert-butyl ester | C(C)(C)(C)OC(N([C@H]1[C@@H](CCC1)NC(=O)NC1=CC(=C(C(=C1)OC)OC)OC)CCCC1=CC=C(C=C1)Cl)=O | C29H40ClN3O6
reactant | (±)-trans-[2-(4-chlorophenyl)ethyl]-[2-(4-methanesulfonylbenzoylamino)cyclopentyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(N([C@H]1[C@@H](CCC1)NC(C1=CC=C(C=C1)S(=O)(=O)C)=O)CCC1=CC=C(C=C1)Cl)=O | C26H33ClN2O5S
product | (±)-trans-N-{2-[2-(4-Chlorophenyl)ethylamino]cyclopentyl}-4-methanesulfonylbenzamide hydrochloride | Cl.ClC1=CC=C(C=C1)CCN[C@H]1[C@@H](CCC1)NC(C1=CC=C(C=C1)S(=O)(=O)C)=O | InChI=1S/C21H25ClN2O3S.ClH/c1-28(26,27)18-11-7-16(8-12-18)21(25)24-20-4-2-3-19(20)23-14-13-15-5-9-17(22)10-6-15;/h5-12,19-20,23H,2-4,13-14H2,1H3,(H,24,25);1H/t19-,20-;/m1./s1
